US07176310B1
22. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 2-adamantan-1-yl-ethyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 1-adamantaneethanol (27 mg, 0.15 mmol) as the coupling partner. Concentration (no chromatography) yielded 58 mg (75%) of the titled compound. ESI-MS m/z 454 (MH+), 452 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 1-adamantaneethanol | 0.15 mmol, 27 mg | C12(CC3CC(CC(C1)C3)C2)CCO | C12H20O
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 2-adamantan-1-yl-ethyl ester | 58 mg, 75% | C12(CC3CC(CC(C1)C3)C2)CCOC(COC2=NC=C(C=N2)C(NC2=CC=C(C=C2)F)=O)=O | C25H28FN3O4
